US07994185B2
N-{3-[2-(1,1-Dimethylethyl)-5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.10 g, 0.19 mmol) and 1-(methylsulfonyl)-4-piperidinamine (0.30 g, 1.7 mmol) in 2,2,2-trifluoroethanol (2 mL) the title compound was obtained (0.026 g, 0.038 mmol, 20% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.84 (s, 1H), 8.03 (br. s., 1H), 7.72-7.54 (m, 1H), 7.47-7.06 (m, 7H), 3.53-3.38 (m, 2H), 2.83 (s, 3H), 2.83-2.72 (m, 3H), 1.91-1.73 (m, 2H), 1.58-1.32 (m, 2H), 1.36 (s, 9H). MS (ESI): 681 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.19 mmol, 0.10 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | 1-(methylsulfonyl)-4-piperidinamine | 1.7 mmol, 0.30 g | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
solvent | 2,2,2-trifluoroethanol | 2 mL | FC(CO)(F)F | C2H3F3O
product | N-{3-[2-(1,1-Dimethylethyl)-5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 20% yield | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)C1=NC(=NC=C1)NC1CCN(CC1)S(=O)(=O)C | C29H31F3N6O4S3
